US05690953
(Synthesis of dicapped Bis Phenol A (BPA) 890).
A total of 200 g (0.345 mol) of dry Photonol 7025 is placed into a 1L three neck flask equipped with mechanical agitation, and gas-inlet tube. The system is flushed with dry nitrogen and then dry oxygen. To the BPA are added 375 g of dry acetonitrile and allowed to mix until the BPA has completely dissolved. Subsequently 2 drops of stannous octoate and 500 ppm MEHQ are, added. Via a dropping funnel are added 107.1 g (0.690 mol) of isocyanatoethyl methacrylate. The reaction is allowed to proceed at room temperature for 24-28 hours. The progress of the reaction is followed by the disappearance of the NCO absorption at 2270 cm-1 in the infrared spectra. The acetonitrile is removed under reduced pressure, and the resultant viscous liquid dicapped SPA 890 is used as is.

reactant | Photonol 7025 | 0.345 mol, 200 g | CC(C)(C1=CC=C(C=C1)OCCO)C2=CC=C(C=C2)OCCO | C19H24O4
reactant | isocyanatoethyl methacrylate | 0.690 mol, 107.1 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
product | Bis Phenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
